US05391754
1-methyl-1,2,5,6-tetrahydropyridin-3-carboxaldehyde-O -acetyl-oxime acetyl-oxime
To a solution of 2 g (0.0142 mol) of 1-methyl-1,2,5,6-tetrahydropyridin-3-carboxaldehyde-oxime [Chem. Ber. 40, 4712, (1907) in 20 CM3 of anhydrous THF, 1.44 g (0.0142 mol) of triethylamine and 1.12 g (0.0142 mol) of acetyl chloride are added, with agitation for 1 hour at ambient temperature. The reactional mixture is treated with water, then with an aqueous solution of sodium bicarbonate; the organic phase is separated, dried and the solvent is evaporated. The residue is distilled at 0.05 mm of Hg, collecting the fraction with b.p. 170°-175°. Yield 2.1 g (81%).

reactant | 1-methyl-1,2,5,6-tetrahydropyridin-3-carboxaldehyde-oxime | 0.0142 mol, 2 g | CN1CC(=CCC1)C=NO | C7H12N2O
reactant | triethylamine | 0.0142 mol, 1.44 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.0142 mol, 1.12 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-methyl-1,2,5,6-tetrahydropyridin-3-carboxaldehyde-O -acetyl-oxime acetyl-oxime | C(C)(=O)ON=C(C)ON=CC=1CN(CCC1)C | C11H17N3O3
